US08278441B2
1-(3-Bromophenyl)hex-5-ene-1,3-diol
To a solution of 1-(3-bromophenyl)-1-(tert-butyldimethylsilyloxy)hex-5-en-3-ol (18.8 g, 44.0 mmol) in tetrahydrofuran (60 mL) is added 1 M tetrabutylammonium fluoride solution in THF (66.0 mL, 66.0 mmol). The resulting mixture is stirred at room temperature for 2 hours. The mixture is diluted with dichloromethane and is washed sequentially with water and saturated ammonium chloride aqueous solution. The organic layer is dried over sodium sulfate, filtered, and concentrated under reduced pressure to give a residue. The crude product is purified by silica gel chromatography eluting with a linear gradient of 20% to 40% ethyl acetate in hexanes over 26 minutes to give the title compound as racemic diastereomeric mixture (11.8 g, 99%). 1H NMR (400 MHz, CDCl3) δ 7.52 (s, 1H), 7.38-7.36 (m, 1H), 7.28-7.24 (m, 1H), 7.22-7.17 (m, 1H), 5.83-5.75 (m, 1H), 5.15-5.11 (m, 2H), 5.03-4.89 (m, 1H), 4.00-3.90 (m, 1H), 2.32-2.21 (m, 2H), 1.96-1.89 (m, 2H).

reactant | 1-(3-bromophenyl)-1-(tert-butyldimethylsilyloxy)hex-5-en-3-ol | 44.0 mmol, 18.8 g | BrC=1C=C(C=CC1)C(CC(CC=C)O)O[Si](C)(C)C(C)(C)C | C18H29BrO2Si
reactant | tetrabutylammonium fluoride | 1 M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | THF | 66.0 mmol, 66.0 mL | C1CCOC1 | C4H8O
product | 1-(3-Bromophenyl)hex-5-ene-1,3-diol | BrC=1C=C(C=CC1)C(CC(CC=C)O)O | C12H15BrO2
